US20010047031A1
(RS)-5-[1-(4-Phenyl-butyl)-pyrrolidine-3-sulfonyl]-1H-indazole
The title compound, MS: m/e=384.2(M+H+) was prepared from (RS)-5-(pyrrolidine-3-sulfonyl)-1H-indazole trifluoroacetic acid and 4-phenyl-butyraldehyde.

reactant | (RS)-5-(pyrrolidine-3-sulfonyl)-1H-indazole trifluoroacetic acid | FC(C(=O)O)(F)F.N1CC(CC1)S(=O)(=O)C=1C=C2C=NNC2=CC1
reactant | 4-phenyl-butyraldehyde | C1(=CC=CC=C1)CCCC=O | C10H12O
product | (RS)-5-[1-(4-Phenyl-butyl)-pyrrolidine-3-sulfonyl]-1H-indazole | C1(=CC=CC=C1)CCCCN1CC(CC1)S(=O)(=O)C=1C=C2C=NNC2=CC1 | C21H25N3O2S
